Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
lethargy, melena, hematemesis
 
Major Surgical or Invasive Procedure:
Transfusion 2u pRBC
 
History of Present Illness:
___ yo F with h/o atrial fibrillation on coumadin, s/p MVR, HTN, 
PUD, and diverticulosis who presents with lethargy, melena, 
blood oozing from her mouth and ? hematemesis. Per pt, has had 
epigastric pain for several days and vomited up "small" amount 
of dark colored blood for past 3 days. She later denies this and 
states that she only vomited up dark blood on one occasion on 
the day PTA. Per daughter, noted dried, dark blood around pt's 
lips on ___. Denies hematochezia, BRBPR but does report one 
episode of melena the night PTA. Per husband, he noted that pt 
was much more fatigued and tired yesterday and was unable to 
climb up a flight of stairs. He also noted "dark colored spots" 
over her legs and arms and dark blood oozing from her mouth 
after removing her dental plates. No coughing or vomiting up of 
blood per husband. This morning, she was found to be very hard 
to arouse from bed and again noticed dark, dried blood around 
her mouth and clothes. Upon EMS arrival, ___ reportedly wnl, BP 
60/palp. She was given IVFs during transport to ___.  
.  
In the ___, initial BP 80/palp per ___ RN. Given 500 cc bolus and 
BPs improved to 103/56. She continued to be fluid resuscitated 
with a total of 4L NS. NGL lavage performed with return of dark, 
coffee-grounds. Labs significant for Hct 29.8 (baseline mid 
30's), INR 21.2, venous lactate 10.7, Cr 3.6 (baseline 1.4 - 
1.9), troponin 0.02, CK 81. The pt was given 2 units pRBC, 2 
units FFP, panoprazole 40 mg IV X 1, and vit K 10 mg IV X 1. 
Given elevated venous lactate, a CTA abd/pelvis was performed 
that showed no signs of mesenteric ischemia, bibasilar lung 
opacities, non-specific bilateral perinephric stranding possibly 
related to renal failure, and ascites, pericholecystic fluid, 
and RV enlargement suggestive of R sided heart failure. She was 
seen by GI consult and admitted to the MICU for further care.
 
Past Medical History:
Type II diabetes mellitus  
Hypertension  
s/p mechanical mitral valve replacement ___  
Atrial fibrillation on coumadin  
Hypothyroidism  
Hyperlipidema  
Depression  
Peptic ulcer disease - dx'd by EGD in ___, H.pylori + in 
___  
Diverticulosis on colonoscopy in ___  
L vitreous hemorrhage - followed by Dr. ___ for 
vitrectomy on ___  
R retinal detachment
 
Social History:
___
Family History:
sister with breast ca. another sister with ca of unknown 
etiology. No h/o GI disease, IBD.
 
Physical Exam:
T 98.0 BP 103/65 HR 112 RR 20 O2 sat 98% on 50% shovel mask  
Gen - NAD, speaking in full sentences without SOB  
HEENT - NCAT, L eye with grossly appreciated conjunctival 
hemorrhage, R eye slighly injected, no scleral icterus, dried 
dark blood over lips, tongue, no active oozing of blood noted 
from oral cavity, JVP approximately 10 cm above sternal notch 
but difficult to fully appreciate  
CV - irregularly irregular, tachycardic, mechanical click, no 
m/r/g appreciated  
Lungs - limited by anterior exam, slight expiratory wheezing at 
bases b/l, no rales or rhonchi  
Abd - Soft, obese, non-tender to palpation throughout, no 
palpable masses or HSM, guaiac positive, grossly red colored 
stool in ___  
Ext - trace pitting ___ edema b/l, warm, cap refill < 2 sec  
Neuro - AAO X 3 (although not entirely sure which hospital she 
is in but knows she is in a hospital in ___, moves all 4 
extremities purposefully
 
Pertinent Results:
___ 09:00AM BLOOD WBC-11.4* RBC-3.03* Hgb-8.3* Hct-27.2* 
MCV-90 MCH-27.3 MCHC-30.4* RDW-15.5 Plt ___
___ 04:35AM BLOOD WBC-8.2 RBC-3.15* Hgb-9.3* Hct-27.2* 
MCV-86 MCH-29.4 MCHC-34.0 RDW-16.1* Plt ___
___ 07:30AM BLOOD WBC-7.1 RBC-3.72* Hgb-10.5* Hct-32.7* 
MCV-88 MCH-28.2 MCHC-32.1 RDW-17.6* Plt ___
___ 07:00AM BLOOD WBC-6.8 RBC-3.64* Hgb-10.4* Hct-32.8* 
MCV-90 MCH-28.5 MCHC-31.6 RDW-17.5* Plt ___
___ 09:17AM BLOOD Neuts-84.0* Bands-0 Lymphs-11.0* 
Monos-4.5 Eos-0.2 Baso-0.3
.
___ 09:17AM BLOOD ___ PTT-79.6* ___
___ 02:47PM BLOOD ___ PTT-32.9 ___
___ 12:18AM BLOOD ___ PTT-150* ___
___ 06:25AM BLOOD ___ PTT-36.8* ___
___ 06:35AM BLOOD ___ PTT-56.7* ___
___ 09:19PM BLOOD ___ PTT-74.6* ___
.
___ 09:05AM BLOOD Glucose-112* UreaN-47* Creat-3.8*# Na-142 
K-5.7* Cl-103 HCO3-12* AnGap-33*
___ 05:40PM BLOOD Glucose-211* UreaN-34* Creat-1.5* Na-140 
K-3.2* Cl-98 HCO3-31 AnGap-14
___ 07:25AM BLOOD Glucose-112* UreaN-24* Creat-1.7* Na-143 
K-3.8 Cl-101 HCO3-32 AnGap-14
___ 07:00AM BLOOD Glucose-110* UreaN-29* Creat-1.5* Na-142 
K-3.9 Cl-103 HCO3-30 AnGap-13
___ 09:05AM BLOOD Albumin-3.4 Calcium-8.1* Phos-7.7*# 
Mg-2.4
___ 06:40AM BLOOD Calcium-9.1 Phos-2.6* Mg-1.9
___ 07:28PM BLOOD Mg-2.0
___ 07:00AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.1
.
___ 09:05AM BLOOD ALT-16 AST-38 CK(CPK)-81 AlkPhos-46 
Amylase-195* TotBili-1.1
.
___ 09:05AM BLOOD CK-MB-NotDone cTropnT-0.02*
___ 06:57PM BLOOD CK-MB-4 cTropnT-0.04*
___ 04:26AM BLOOD CK-MB-5 cTropnT-0.01
.
___ 09:17AM BLOOD TSH-0.67
___ 04:26AM BLOOD T3-52* Free T4-1.2
___ 09:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:02AM BLOOD Glucose-111* Lactate-10.7* Na-140 K-5.3 
Cl-105 calHCO3-17*
.
___ 09:45AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:08PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-SM 
___ 09:45AM URINE ___ Bacteri-OCC Yeast-NONE 
___ 02:08PM URINE RBC-182* WBC-8* Bacteri-NONE Yeast-NONE 
Epi-<1
.
UCx neg
C diff neg
.
___ CXR
SINGLE PORTABLE VIEW OF THE CHEST: There has been previous 
sternotomy, with 
midline sternal wires and prosthetic mitral valve again 
identified. Marked 
cardiomegaly is again noted with bilateral peripheral 
interstitial opacities. 
Findings may be related to chronic interstitial lung disease 
though 
superimposed mild congestion is also probable. There is no 
pleural effusion. 
The bony thorax is unremarkable. 
  
IMPRESSION: 
  
1. Cardiomegaly with probable mild congestion. 
.
___ CT abd/pelvis
IMPRESSION: 
1. No evidence of mesenteric ischemia. 
2. New bilateral perinephric stranding, a nonspecific finding. 
This may be 
related to medical renal disease. 
3. Reticulonodular opacities at the lung bases likely reflect 
edema 
superimposed on chronic interstitial lung disease. 
4. Cardiomegaly with right heart failure. 
5. Small volume ascites.  
.
___ CT head
IMPRESSION: 
  
1. No evidence of infarction or hemorrhage, allowing for the 
presence of 
intravenous contrast from the preceding abdominal/pelvic CT. 
.
___ CT head
IMPRESSION: No evidence of acute hemorrhage or acute large 
vascular territory 
infarcts. Prominence of the ventricles slightly out of 
proportion to 
prominence of the sulci is unchanged compared to ___. 
Periventricular 
hypodensities may represent chronic small vessel ischemic 
disease, 
transependymal migration of CSF, or a combination of the two; 
comparison with 
earlier prior imaging, if available, may be helpful in assessing 
change over 
time. 
.
___ CXR
The heart is enlarged. Mitral valve replacement is present. The 
interstitial 
failure present on the prior chest ___ appears 
less marked but 
this could be due to technical differences and I suspect that 
some 
interstitial failure is still present. Atelectasis is again 
present. 
  
IMPRESSION: Persistent cardiomegaly, interstitial failure 
possibly better. 

 
Brief Hospital Course:
Hospital course was as follows: 

In the ___, initial BP 80/palp per ___ RN. Given 500 cc bolus and 
BPs improved to 103/56. She continued to be fluid resuscitated 
with a total of 4L NS. NGL lavage performed with return of dark, 
coffee-grounds. Labs significant for Hct 29.8 (baseline mid 
30___s), INR 21.2, venous lactate 10.7, Cr 3.6 (baseline 1.4 - 
1.9), troponin 0.02, CK 81. The patient was given 2 units pRBC, 
2 units FFP, panoprazole 40 mg IV X 1, and vit K 10 mg IV X 1. 
Given elevated venous lactate, a CTA abd/pelvis was performed 
that showed no signs of mesenteric ischemia, bibasilar lung 
opacities, non-specific bilateral perinephric stranding possibly 
related to renal failure, and ascites, pericholecystic fluid, 
and RV enlargement suggestive of R sided heart failure. She was 
seen by GI consult and admitted to the MICU for further care.  
.
In the MICU, GI performed EGD and noted esophagitis/gastritis 
and to have large clot in stomach but no active bleeding. 
Hematocrit nadir was 27, transfused 2 units w/ appropriate 
increase. Reversed anticoagulation w/ vitamin K, now on heparin 
gtt as INR<2 w/o new bleeding. Also patient noted to have a 
history of interstitial lung disease (f/b Dr. ___ and 
does not have home O2 but currently w/ O2 requirement s/p IVF 
resuscitation on arrival given hypovolemic hypotension in 
setting of bleed. Her O2 requirement has been lessening w/ 
diuresis. The morning of transfer, the patient was noticed to be 
slightly confused and does have a h/o sundowing. A head CT was 
negative for bleed and then found +U/A so started ciprofloxacin 
which was changed to ceftriaxone for concerns of deleriogenesis. 

.
Please see the following problem list for the pt's course once 
called out to the medical floor:
.
*) Increasing O2 requirement: Likely ___ volume overload from 
diastolic heart failure in combination with known interstitial 
lung disease. s/p echo ___ with EF 60-70%. Pt received IV lasix 
to a goal of -1.5L for approx 5 days and was transitioned to PO 
lasix when no longer exhibited signs of fluid overload. She 
continued to have a fluctuating O2 requirement and NC was 
titrated to >93%. On discharge, patient was satting well on 2L 
off of lasix.
.
*) Upper GI bleed: In setting of supratherapeutic INR. s/p 2u 
pRBC. Resolved and Hct stable s/p transfusion and Vit K. EGD 
with esophagitis, gastritis, clot but no acute bleeding. 
Continued BID protonix. Daily hcts were stable and increased 
throughout stay.  
.  
*) Anti-Coagulation/MVR - Patient on IV heparin with goal 50-70 
for anticogagulation for MVR. Initially on coumadin 2mg QD, 
which was eventually increased to her home regimen of 10mg 
___ and 15mg ___. On discharge, INR was 3.1 and heparin gtt 
discontinued. Patient to have close follow up with ___ 
Clinic.
.
*) Confusion/dementia: Pt with occasional severe agitation. Last 
episode ___ AM (pulled out IVs, refusing PO meds and O2NC). 
Likely secondary to underlying dementia/sundowning. Pt received 
zyprexa and haldol prn. Per daughter, this is her baseline.
.  
*) Acute on chronic renal failure: Prerenal, baseline Cr 
1.4-1.6. Followed Cr daily. On discharge, creatinine was 1.5.
.  
*) Cardiac - EF 60-70%. Continued metoprolol and transitioned to 
XL. Lisinopril was decreased as BPs were low normal. Continued 
statin.
.
*) UTI: Pt received cipro x 3d. Cx negative.
.  
*) s/p MVR - Mechanical valve. Heparin as above.  
.  
*) Hypothryoidism - Continued synthroid at home doses. TSH 0.68, 
free T4 normal.  
.  
*) DM II - Continue ISS while in house, but pt with little 
requirement. D/C'd on HD#12. Restarted metformin 1 day prior to 
discharge.
 
Medications on Admission:
Coumadin 2.5 mg take as directed  
Lasix 40 mg daily  
Lisinopril 20 mg daily  
Toprol 100 mg daily  
Metformin 1000 mg daily  
Flonase 1 spray daily  
Levothyroxine 112 mcg daily  
Simvastatin 20 mg qhs  

 
Discharge Medications:
1. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).
Disp:*1 INH* Refills:*2*
4. Metformin 1,000 mg Tab,Sust Rel Osmotic Push 24hr Sig: One 
(1) Tab,Sust Rel Osmotic Push 24hr PO once a day.
Disp:*30 Tab,Sust Rel Osmotic Push 24hr(s)* Refills:*2*
5. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
7. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. Warfarin 5 mg Tablet Sig: Two (2) Tablet PO Once Daily at 4 
___: Titrate to INR 2.5-3.5.
Disp:*60 Tablet(s)* Refills:*2*
9. Furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
10. Outpatient Lab Work
Standing INR to be faxed to Dr. ___ at ___ 
Goal INR 2.5-3.5

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-Upper GI bleed
-Interstitial lung disease
-Acute on chronic diastlic heart failure
-Mechanical mitral valve
Secondary:
-Type II diabetes mellitus
-Hypertension
-s/p mechanical mitral valve replacement ___
-Atrial fibrillation on coumadin
-Hypothyroidism
-Hyperlipidema
-Depression
-Peptic ulcer disease - dx'd by EGD in ___, H.pylori + in 
___
-Diverticulosis on colonoscopy in ___
-L vitreous hemorrhage - followed by Dr. ___ for 
vitrectomy on ___
-R retinal detachment
 
Discharge Condition:
Stable. Unstable on ambulation with walker.  We are recommending 
rehabilitation but the patient has refused and is deemed 
competent to do so.

 
Discharge Instructions:
You were admitted to the hospital for an upper gastrointestinal 
bleed because your coumadin made your blood too thin. Studies 
demonstrated no further bleeding and after receiving fluids and 
a blood transfusion, your hematocrit was stable throughout your 
hospital admission.
.
While in the ICU, you required more oxygen than at baseline and 
continued to have an increased requirement on the floor. You 
received medication to help excrete fluid that collected in your 
lungs. 
.
You were restarted on your coumadin and stayed in the hospital 
until your labs showed that your blood was thin enough for your 
mechanical heart valve. 
 
Followup Instructions:
___